US08258302B2
181 g (1.24 mol) of diethyl oxalate and 500 ml of toluene were placed in a flask, to which 100 g (825 mmol) of 2-phenethylamine was added dropwise at room temperature for 45 minutes. The reaction mixture was heated at 60° C. for two hours, and was further reacted at 75° C. for two hours. The solution was then concentrated at room temperature until the residual quantity of toluene became about 50 ml. The generated precipitation was filtered off and washed with about 50 ml of toluene. 400 ml of hexane was added to the filtrate at 50° C., so as to precipitate crystals. The mixture was further cooled down to 5° C. and stirred for 30 minutes. Then, resulting crystals were filtered, washed with hexane, and dried to obtain 158 g (710 mmol, yield 86%) of ethyl N-(2-phenylethyl)oxamate as white crystals.

reactant | diethyl oxalate | 1.24 mol, 181 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | 2-phenethylamine | 825 mmol, 100 g | C1=CC=C(C=C1)CCN | C8H11N
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl N-(2-phenylethyl)oxamate | 710 mmol, 158 g, yield 86% | C1(=CC=CC=C1)CCNC(C(=O)OCC)=O | C12H15NO3
